US07960552B2
To a solution of ethyl 6-[4-({[3-{[(2,6-dichlorophenyl)thio]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (20 mg, 0.033 mmol) in dichloromethane (1 mL) at 0° C. was added meta-chloroperoxybenzoic acid (15 mg, 0.066 mmol). The mixture was stirred at 0° C. for approximately 30 minutes. Aqueous sodium bicarbonate was added and the mixture was extracted twice with dichloromethane. The combined organic layers were dried over magnesium sulfate, adsorbed onto silica gel and purified by chromatography (silica gel, 0-100% ethyl acetate in hexanes gradient elution) to afford ethyl 6-[4-({[3-{[(2,6-dichlorophenyl)sulfinyl]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (12 mg, 0.019 mmol, 57%). 1H-NMR (400 MHz, CDCl3) δ 8.39 (d, J=9 Hz, 1H), 8.23 (d, J=9 Hz, 2H), 8.05-8.03 (m, 2H), 7.68 (d, J=9 Hz, 2H), 7.31 (s, 3H), 7.07 (d, J=9 Hz, 2H), 5.10-4.90 (m, 2H), 4.80-4.58 (m, 2H), 3.22 (septet, J=7 Hz, 1H), 1.32 (d, J=7 Hz, 6H). LRMS m/z 623 (M+H)+.

reactant | ethyl 6-[4-({[3-{[(2,6-dichlorophenyl)thio]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 0.033 mmol, 20 mg | ClC1=C(C(=CC=C1)Cl)SCC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OCC)C(C)C | C32H28Cl2N2O4S
reactant | meta-chloroperoxybenzoic acid | 0.066 mmol, 15 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | ethyl 6-[4-({[3-{[(2,6-dichlorophenyl)sulfinyl]methyl}-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 0.019 mmol, 12 mg, 57% | ClC1=C(C(=CC=C1)Cl)S(=O)CC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OCC)C(C)C | C32H28Cl2N2O5S
